US07102003B2
tert-Butyldimethylsilyl trifluoromethanesulfonate (8.8 mL, 38.5 mmole) was added to an ice-cooled, stirred solution of (1R,2R,5R)-5-(benzyloxy)-2-((S)-1-phenylethylamino)-cyclohexanol) (4.8 gm, 14.8 mmole) and TEA (8.2 mL, 59.1 mmole) in dry DCM (250 mL). After 15 min, this was washed with a saturated aq. solution of NaHCO3 and dried (Na2SO4). Removal of the solvent followed by column chromatography (silica gel, step gradient elution with hexane containing 0 to 30% EtOAc) afforded (1R,2R,4R)-4-(benzyloxy)-2-(tert-butyldimethylsilyloxy)-N-((S)-1-phenylethyl)cyclohexanamine (6.2 gm, 95%): MS: 440 (M+H)+; HPLC Ret Time: 2.73 min (YMC Xterra S5 3.0×50 mm column, 3 min gradient, 4 mL/min). A mixture of this material (6.2 gm, 14 mmole), di-tert-butyl dicarbonate (12.2 gm, 56 mmole) and palladium hydroxide (6.5 gm, 20 wt % on carbon, wet) in EtOH (250 mL) was hydrogenated (Paar apparatus, 50 psi H2, 16 hr, RT). Removal of the catalyst and solvent followed by column chromatography (silica gel, step gradient elution with hexane containing 0 to 30% EtOAc) afforded the product (3.3 gm, 68%): [a]25589−19.1 (c 5.9, MeOH); 1H NMR (CDCl3) 0.11 (s, 3H), 0.13 (s, 3H), 0.78 (s, 9H), 1.20 (m, 1H), 1.33 (s, 9H), 1.46 (m, 1H), 1.53 (m, 1H), 1.64 (m, 1H), 1.89 (m, 1H), 2.06 (m, 1H), 2.7 (br s, 1H), 3.36 (m, 1H), 3.36 (m, 1H), 3.67 (m, 1H), 4.38 (m, 1H); MS 346 (M+H).+

reactant | tert-Butyldimethylsilyl trifluoromethanesulfonate | 38.5 mmole, 8.8 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | (1R,2R,5R)-5-(benzyloxy)-2-((S)-1-phenylethylamino)-cyclohexanol | C(C1=CC=CC=C1)O[C@@H]1CC[C@H]([C@@H](C1)O)N[C@@H](C)C1=CC=CC=C1 | C21H27NO2
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | (1R,2R,4R)-4-(benzyloxy)-2-(tert-butyldimethylsilyloxy)-N-((S)-1-phenylethyl)cyclohexanamine | 6.2 gm, 95% | C(C1=CC=CC=C1)O[C@H]1C[C@H]([C@@H](CC1)N[C@@H](C)C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C | C27H41NO2Si
